US03976653
Reduction of 8.2 g. of cis ethyl 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3-piperidinecarboxylate with 1.52 g. of lithium aluminum hydride in 97 ml. of tetrahydrofuran yielded cis-1-methyl-2-(p-methoxybenzyl)-3-piperidinemethanol, isolated as its hydrochloride (in a yield of 2.8 g.), a white crystalline solid which melted at 185°-186°C. trans-1-Methyl-2-(p-methoxybenzyl)-3-piperidinemethanol, a white crystalline solid which melted at 66°-68°C., can be obtained in similar fashion.

reactant | cis ethyl 1-benzyloxycarbonyl-2-(p-methoxybenzyl)-3-piperidinecarboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@H]([C@H](CCC1)C(=O)OCC)CC1=CC=C(C=C1)OC | C24H29NO5
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | cis-1-methyl-2-(p-methoxybenzyl)-3-piperidinemethanol | CN1[C@H]([C@H](CCC1)CO)CC1=CC=C(C=C1)OC | C15H23NO2
